US07825256B2
To a solution of 2-[(2-imidazol-1-yl-6-methyl-pyrimidin-4-ylmethyl)-carbamoyl]-pyrrolidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester (435 mg, 0.855 mmol) in dimethylformamide (3.2 mL) was added piperidine (800 μL, 8.09 mmol) at r.t. The solution was stirred for 20 min then concentrated under vacuum to afford 244 mg of pyrrolidine-2-carboxylic acid (2-imidazol-1-yl-6-methyl-pyrimidin-4-ylmethyl)-amide as a brown oil. [M+H]+ 287.28.

reactant | 2-[(2-imidazol-1-yl-6-methyl-pyrimidin-4-ylmethyl)-carbamoyl]-pyrrolidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | 0.855 mmol, 435 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C(CCC1)C(NCC1=NC(=NC(=C1)C)N1C=NC=C1)=O | C29H28N6O3
reactant | piperidine | 8.09 mmol, 800 μL | N1CCCCC1 | C5H11N
solvent | dimethylformamide | 3.2 mL | CN(C=O)C | C3H7NO
product | pyrrolidine-2-carboxylic acid (2-imidazol-1-yl-6-methyl-pyrimidin-4-ylmethyl)-amide | 244 mg | N1(C=NC=C1)C1=NC(=CC(=N1)CNC(=O)C1NCCC1)C | C14H18N6O
